US08426411B2
To a solution of the scalemic mixture enriched in (1R,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (0.5 g, 1.245 mmol) and TEA (0.347 mL, 2.49 mmol) in DCM (13 mL) was added MsCl (0.107 mL, 1.37 mmol) dropwise, and the reaction mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue purified by silica gel column chromatography using 10 to 70% EtOAc in DCM to yield 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl methanesulfonate (0.48 g, 80%) as a white amorphous solid. LC/MS (Table 1, Method a) Rt=2.54 min; MS m/z: 480 (M+H)+

reactant | (1R,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 1.245 mmol, 0.5 g | C(C)[C@@H]1C[C@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)O | C20H31N5O2Si
reactant | MsCl | 1.37 mmol, 0.107 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl methanesulfonate | 0.48 g, 80% | CS(=O)(=O)OC1CC(C(C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)CC | C21H33N5O4SSi
